US07700641B2
Synthesis of 1-(4-fluorophenyl)-3-[2-(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)ethyl]urea
To a mixture of 1′-(2-aminoethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one (0.15 mmol) and triethylamine (0.01 mmol) in anhydrous dichloromethane was added 1-fluoro-4-isocyanatobenzene (0.14 mmol) at ambient temperature. The mixture was stirred for 16 h, diluted with of dichloromethane (5.00 mL), washed with 10% HCl solution and brine, dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo to dryness to give the title compound (0.05 g) in 82% yield: 1H NMR (300 MHz, DMSO-d6) δ 8.54 (s, 1H), 7.35-7.25 (m, 3H), 7.19 (d, 1H), 7.11 (d, 1H), 7.06-6.91 (m, 3H), 6.67 (s, 1H), 6.52 (t, 1H), 5.94-5.84 (ABq, 2H), 4.74 (d, 1H), 4.61 (d, 1H), 3.91-3.69 (m, 2H), 3.49-3.34 (m, 2H); MS (ES+) m/z 462 (M+1), 484 (M+23).

reactant | 1′-(2-aminoethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 0.15 mmol | NCCN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C18H16N2O4
reactant | 1-fluoro-4-isocyanatobenzene | 0.14 mmol | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5.00 mL | ClCCl | CH2Cl2
catalyst | triethylamine | 0.01 mmol | C(C)N(CC)CC | C6H15N
product | 1-(4-fluorophenyl)-3-[2-(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)ethyl]urea | 0.05 g, 82% yield | FC1=CC=C(C=C1)NC(=O)NCCN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C25H20FN3O5
